US05252593
2-(5-Methyl-2-benzofuranyl)benzonitrile
Intermediate 1 (20 g) was added to a stirred solution of 2-bromobenzonitrile (10.34 g) and tetrakistriphenylphosphine palladium (0) (1.5 g) in DME (200 ml) and 8% NaHCO3 solution (50 ml) at reflux under nitrogen. Further catalyst (1.5 g) was added and the reaction continued overnight. The reaction was cooled to room temperature and diluted with ether (200 ml). The organic layer was separated, washed with water (3×100 ml) and dried. Filtration and evaporation gave a white solid which was purified by chromatography eluting with system A (1:9) to give the title compound (10.58 g) as a white solid.

reactant | 2-bromobenzonitrile | 10.34 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | DME | 200 ml | COCCOC | C4H10O2
solvent | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(5-Methyl-2-benzofuranyl)benzonitrile | 10.58 g | CC=1C=CC2=C(C=C(O2)C2=C(C#N)C=CC=C2)C1 | C16H11NO
